US07842685B2
2,2,2-Trifluoroacetic acid (360 μl, 4.67 mmol) was added to a solution of tert-butyl 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)propanoate (46.5 mg, 0.095 mmol) in DCM (2.0 mL) at 25° C., and the resulting solution was stirred at 25° C. for 19 h. The reaction solution was then concentrated in vacuo, and the residue was taken up in DMSO (2.0 mL) and purified by rpHPLC (10-100% CH3CN/water+0.1% TFA) to provide 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)propanoic acid as a yellow solid. MS (ESI) m/z: Calculated: 433.1; Observed: 434.0 (M++1).

reactant | 2,2,2-Trifluoroacetic acid | 4.67 mmol, 360 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)propanoate | 0.095 mmol, 46.5 mg | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)NCCC(=O)OC(C)(C)C | C28H28FN3O2S
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)propanoic acid | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)NCCC(=O)O | C24H20FN3O2S
